US07973078B2
1.56 g of di-tert-butyl iminodicarboxylate was dissolved in 20.0 mL of DMF, and 804 mg of potassium tert-butoxide was added under ice-cooling, followed by stirring at room temperature for 1 hour. To the reaction liquid was added dropwise a solution (10.0 mL) of 1.70 g of ethyl 3-(bromomethyl)-4-fluorobenzoate in DMF, followed by stirring at room temperature overnight. The reaction liquid was poured to water, followed by extraction with ethyl acetate, and the organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 2.59 g of 3-{[bis(tert-butoxycarbonyl)amino]methyl}-4-fluorobenzoic acid.

reactant | di-tert-butyl iminodicarboxylate | 1.56 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | potassium tert-butoxide | 804 mg | CC(C)([O-])C.[K+]
reactant | ethyl 3-(bromomethyl)-4-fluorobenzoate | 10.0 mL, 1.70 g | BrCC=1C=C(C(=O)OCC)C=CC1F | C10H10BrFO2
reactant | water | O | H2O
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
product | 3-{[bis(tert-butoxycarbonyl)amino]methyl}-4-fluorobenzoic acid | 2.59 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C(=O)O)C=CC1F | C18H24FNO6
